US06248783B1
(Z)-7-[(1R,2S,3R,5S)-2-(tert-Butyldimethylsilanyloxymethyl)-3,5-bis-(tetrahydro-pyran-2-yloxy)cyclopentyl]hept-5-enoic acid
To (Z)-7-[(1R,2S,3R,5S)-2-(tert-Butyldimethylsilanyloxymethyl)-3,5-bis-(tetrahydropyran-2-yloxy)cyclopentyl]hept-5-enoic acid methyl ester (1.5 g, 2.71 mmol) stirring in THF was added LiOH (4 mL, 1 M in H2O, 4.0 mmol) and the stirring was continued at 23° C. for 12 h. The THF was evaporated and the mixture was acidified with cold 1% HCl and extracted with CH2Cl2 (3×). The combined organics were washed with brine, dried (Na2SO4) filtered and concentrated in vacuo. FCC (silica gel, 30% EtOAc/hex) afforded 1.23 g of the above named acid.

reactant | (Z)-7-[(1R,2S,3R,5S)-2-(tert-Butyldimethylsilanyloxymethyl)-3,5-bis-(tetrahydropyran-2-yloxy)cyclopentyl]hept-5-enoic acid methyl ester | 2.71 mmol, 1.5 g | COC(CCC\C=C/C[C@@H]1[C@H]([C@@H](C[C@@H]1OC1OCCCC1)OC1OCCCC1)CO[Si](C)(C)C(C)(C)C)=O | C30H54O7Si
reactant | LiOH | 4.0 mmol, 1 M, 4 mL | [Li+].[OH-]
solvent | THF | C1CCOC1 | C4H8O
product | (Z)-7-[(1R,2S,3R,5S)-2-(tert-Butyldimethylsilanyloxymethyl)-3,5-bis-(tetrahydro-pyran-2-yloxy)cyclopentyl]hept-5-enoic acid | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H]([C@H](C[C@H]1OC1OCCCC1)OC1OCCCC1)C\C=C/CCCC(=O)O | C29H52O7Si
